data/oMe_Silver.jsonl
{"reaction_id": "NR-208_1-C#N_2-c1ccccc1_3-C_4-c1cnccn1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C#N)=C(c1ccccc1)C(C)(c1cnccn1)OC=N"],"products_smiles": ["C(=O)NC(C#N)C(c1ccccc1)=C(C)(c1cnccn1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C#N)C(c1ccccc1)=C(C)(c1cnccn1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
{"reaction_id": "NG-007_1-c1ccc(OC)cc1_2-C1CC2CC3CC1C3C2_3-C1=CC=C(C=C1)C2=CC=CC=C2","name": "Appel reaction","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)O"],"products_smiles": ["C(c1ccc(OC)cc1)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(c1ccc(OC)cc1)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(c1ccc(OC)cc1)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
